US08609903B2
A 100 ml glass autoclave is charged with 8.84 g (65.0 mmol) of 4-methoxybenzaldehyde and 51.2 g (455 mmol) of dimethylamine (40% solution in water). The autoclave is closed and the biphasic reaction mixture is stirred at 140° C. (autogenous pressure 7.5 bar) for 15 h. Excess dimethylamine and water are removed under reduced pressure, methyl tert-butyl ether is added and the mixture is acidified with 30% hydrochloric acid in water. After phase separation and removal of all volatile constituents of the organic phase, 6.5 g (0.53 mmol, 81% yield) of 4-hydroxybenzaldehyde are obtained.

reactant | 4-methoxybenzaldehyde | 65.0 mmol, 8.84 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | dimethylamine | 455 mmol, 51.2 g | CNC | C2H7N
product | 4-hydroxybenzaldehyde | 0.53 mmol, 6.5 g, 81% yield | OC1=CC=C(C=O)C=C1 | C7H6O2
